US06657060B2
A mixture of 100 mg (0.34 mmol) of (E)-3-[2-(4-methyl-6-pyrrolidin-1-yl-pyrimidin-2-yl)-vinyl]-benzonitrile, 448 mg (6.9 mmol) NaN3 and 368 mg (6.9 mmol) NH4Cl in 10 ml DMF was heated at 70° C. for 20 h until completion of the reaction according to TLC analysis. The reaction mixture was cooled to RT, concentrated in vacuo and then partitioned between 1N HCl and CH2Cl2. The organic layer was separated and the aqueous layer extracted several times with CH2Cl2. The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The crystalline solid which formed was filted off by suction and dried in a high vacuum to give ((E)-4-methyl-6-pyrrolidin-1-yl-2-{2-[3-(2H-tetrazol-5-yl)-phenyl]-vinyl}-pyrimidine (20 mg, 17.4%) as an off-white solid. ISP mass spectrum, m/e: 334.3 (M+1 calculated for C18H19N7: 334).

reactant | (E)-3-[2-(4-methyl-6-pyrrolidin-1-yl-pyrimidin-2-yl)-vinyl]-benzonitrile | 0.34 mmol, 100 mg | CC1=NC(=NC(=C1)N1CCCC1)/C=C/C=1C=C(C#N)C=CC1 | C18H18N4
reactant | NaN3 | 6.9 mmol, 448 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 6.9 mmol, 368 mg | [NH4+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (E)-4-methyl-6-pyrrolidin-1-yl-2-{2-[3-(2H-tetrazol-5-yl)-phenyl]-vinyl}-pyrimidine | 20 mg, 17.4% | CC1=NC(=NC(=C1)N1CCCC1)\C=C\C1=CC(=CC=C1)C=1N=NNN1 | C18H19N7
